US06599925B2
A mixture of 4-(6-methoxy-2-naphthyl)-2-methyl-3-butyn-2-ol (16.9 g, 69.7 mmol), powdered sodium hydroxide (3.7 g, 93 mmol) in toluene (350 mL) was refluxed for 16 hours in a flask equipped with a Dean Stark water trap. The mixture was allowed to cool to room temperature and the solvent was evaporated. The residue was purified by flash chromatography using 2.5-3% ethyl acetate in hexane as an eluant. Drying at 68° C. for 20 minutes afforded 2-ethynyl-6-methoxynaphthalene as a light yellow solid (10.1 g, 80%), mp: 111-112° C. Mass spectrum (+EI, M+) m/z 182. 1HNMR (400 MHz, DMSO-d6): δ8.00 (s, 1H), 7.8-7.85 (m, 2H), 7.45 (dd, 1H, J=8.4 Hz and 1.6 Hz), 7.35 (d, 1H, J=2.4 Hz), 7.2 (dd, 1H, J=8.9 Hz and 2.6 Hz), 4.2 (s, 1H), and 3.9 ppm (s, 3H). Elemental Analysis for C13H10O: Calculated: C, 85.69; H, 5.53; N, 0.00. Found: C, 85.50; H, 5.22; N, 0.07.

reactant | 4-(6-methoxy-2-naphthyl)-2-methyl-3-butyn-2-ol | 69.7 mmol, 16.9 g | COC=1C=C2C=CC(=CC2=CC1)C#CC(C)(O)C | C16H16O2
reactant | sodium hydroxide | 93 mmol, 3.7 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 2-ethynyl-6-methoxynaphthalene | 10.1 g, 80% | C(#C)C1=CC2=CC=C(C=C2C=C1)OC | C13H10O
